US05556977
Methyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetate
A solution of methyl 4-bromoacetylphenoxyacetate (4.3 g) in acetonitrile (50 ml) was added dropwise over 40 minutes to a stirred solution of 1-(4-pyridyl)piperazine (4.9 g) in acetonitrile (100 ml). Stirring was continued for a further 1.5 hours, then the solution was filtered and the filtrate evaporated in vacuo. The solid residue was triturated with water (50 ml), then dried and suspended in methylene chloride (50 ml). The suspension was then filtered and the filtrate concentrated to a small volume. Purification by flash chromatography on neutral alumina eluting first with dichloromethane, then 0.5% v/v methanol/dichloromethane and finally 1% v/v methanol/dichloromethane gave the title compound, 1.93 g, as a solid: m.p. 150°-152° C.; NMR(d6DMSO) δ8.14(2H,d), 7.98(2H,d), 7.03(2H,d), 6.78(2H,d), 4.90(2H,s), 3.83 (2H,s), 3.72(3H,s), 3.34(4H,bt), 2.65(4H,bt); m/e 370 (M+H)+ ; calculated for C20H23N3O4 : C, 65.0; H, 6.3; N, 11.4. found: C, 65.2; H, 6.4; N, 11.3%.

reactant | methyl 4-bromoacetylphenoxyacetate | 4.3 g | BrCC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C11H11BrO4
reactant | 1-(4-pyridyl)piperazine | 4.9 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Methyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetate | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C20H23N3O4
